US08802659B2
5-Hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
A mixture of 2,3-dihydro-1H-indol-5-ol (1.0 g, 7.8 mmol), di-tert-butyldicarbonate (4.0 g, 18 mmol), chloroform (20 mL) and saturated sodium bicarbonate aq. (8 mL) was stirred at room temperature over night. The organic phase was separated and washed twice with water, dried over MgSO4, filtered and concentrated to give crude product. The crude material was treated with ether and filtered to give product (1.1 g, yield: 60%). ESI-MS: 258.10 (M+23)+, 1H NMR (400 MHz, DMSO) δ 9.00 (s, 1H), 7.48 (ws, 1H), 6.61 (d, 1H), 6.51 (dd, 1H), 3.84 (t, 2H), 2.96 (t, 2H), 1.48 (s, 9H).

reactant | 2,3-dihydro-1H-indol-5-ol | 7.8 mmol, 1.0 g | N1CCC2=CC(=CC=C12)O | C8H9NO
reactant | di-tert-butyldicarbonate | 18 mmol, 4.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
product | 5-Hydroxy-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.1 g, yield: 60% | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)O | C13H17NO3
